US06716850B2
Methyltriphenylphosphonium bromide (1.95 g, 5.45 mmol) was added to a suspension of sodium hydride (60% in oil) (0.25 g, 6.3 mmol) in THF (35 ml) at 0C. and it was stirred for 30 min at room temperature. To the above solution was added solution of trifluoro-methanesulfonic acid 3-allyloxy-4-formyl-phenyl ester (1.3 g, 4.2 mmol) in THF (15 ml), and the reaction mixture was stirred for 2 h at room temperature. The reaction mixture was diluted with hexane and extracted with water. Organic phase was washed with brine and evaporated. Silica gel column chromatography (EA:Hex, 1:20) afforded trifluoro-methanesulfonic acid 3-allyloxy-4-vinyl-phenyl ester (0.68 g, 53%).

reactant | sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
reactant | trifluoro-methanesulfonic acid 3-allyloxy-4-formyl-phenyl ester | 4.2 mmol, 1.3 g | C(C=C)OC=1C=C(C=CC1C=O)OS(=O)(=O)C(F)(F)F | C11H9F3O5S
reactant | THF | 35 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | Methyltriphenylphosphonium bromide | 5.45 mmol, 1.95 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | trifluoro-methanesulfonic acid 3-allyloxy-4-vinyl-phenyl ester | 0.68 g, 53% | C(C=C)OC=1C=C(C=CC1C=C)OS(=O)(=O)C(F)(F)F | C12H11F3O4S
